US07745475B2
3-[(1S)-2-Hydroxy-1-methylethoxy]-5-[4-(methylsulfonyl)phenoxy]-N-1,3-thiazol-2-ylbenzamide
Tetra-n-butyl ammonium fluoride (1.0M in THF, 0.832 mL, 0.832 mmol) was added to a solution of 3-((1S)-2-{[tert-Butyl(dimethyl)silyl]oxy}-1-methylethoxy)-5-[4-(methylsulfonyl)phenoxy]-N-1,3-thiazol-2-ylbenzamide (425 mg, 0.756 mmol) in THF (5 mL) and the reaction stirred for 1.5 h. A further portion of tetra-n-butyl ammonium fluoride (0.83 mL) in THF was added and the reaction was stirred for a further 1.5 h. The reaction was then diluted with diethyl ether (40 mL) and 1M aqueous hydrochloric acid (20 mL) and the aqueous layer was re-extracted with diethyl ether (20 mL). The combined organic layers were dried (MgSO4), filtered and evaporated. Purification by column chromatography, eluting with 50% to 100% ethyl acetate in hexanes, afforded the title compound as a foam (200 mg, 60%). 1H NMR δ (CDCl3): 1.30 (d, 3H), 3.08 (s, 3H), 3.77 (m, 2H), 4.47 (m, 1H), 6.85 (s, 1H), 7.00 (d, 1H), 7.13 (d, 2H), 7.20 (s, 1H), 7.32 (d, 1H), 7.37 (s, 1H), 7.92 (d, 2H). m/z 467 (M−H)−

reactant | Tetra-n-butyl ammonium fluoride | 0.832 mmol, 1.0M, 0.832 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 3-((1S)-2-{[tert-Butyl(dimethyl)silyl]oxy}-1-methylethoxy)-5-[4-(methylsulfonyl)phenoxy]-N-1,3-thiazol-2-ylbenzamide | 0.756 mmol, 425 mg | [Si](C)(C)(C(C)(C)C)OC[C@@H](OC=1C=C(C(=O)NC=2SC=CN2)C=C(C1)OC1=CC=C(C=C1)S(=O)(=O)C)C | C26H34N2O6S2Si
reactant | tetra-n-butyl ammonium fluoride | 0.83 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | diethyl ether | 40 mL | C(C)OCC | C4H10O
solvent | hydrochloric acid | 1M, 20 mL | Cl | ClH
product | 3-[(1S)-2-Hydroxy-1-methylethoxy]-5-[4-(methylsulfonyl)phenoxy]-N-1,3-thiazol-2-ylbenzamide | 200 mg, 60% | OC[C@@H](OC=1C=C(C(=O)NC=2SC=CN2)C=C(C1)OC1=CC=C(C=C1)S(=O)(=O)C)C | C20H20N2O6S2
